US09428505B2
A mixture of 2-(3-(trifluoromethyl)phenyl)-8-(vinylsulfonyl)-1,3,8-triazaspiro[4.5]deca-1-en-4-one (150 mg, 0.387 mmol) synthesized according to the method described in Schemes 2, 3, and 12 of WO2010/126030(A1), 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione (169 mg, 0.542 mmol), bis(dibenzylidineacetone) palladium (45 mg, 0.077 mmol), tri-tert-butylphosphine tetrafluoroboric acid (22 mg, 0.077 mmol), and methyldicyclohexylamine (0.123 mL, 0.581 mmol) in N-methyl-2-pyrrolidone (0.97 mL) was stirred at 100° C. for one hour under nitrogen atmosphere. The reaction mixture was cooled, quenched with water, and then extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate-hexane) to afford (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione (197 mg, 82%).

reactant | 2-(3-(trifluoromethyl)phenyl)-8-(vinylsulfonyl)-1,3,8-triazaspiro[4.5]deca-1-en-4-one | 0.387 mmol, 150 mg | FC(C=1C=C(C=CC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C=C)(F)F | C16H16F3N3O3S
reactant | 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione | 0.542 mmol, 169 mg | BrC1=C(C=C(C=C1C)N1C(NC(C1(C)C)=O)=O)C | C13H15BrN2O2
reactant | tri-tert-butylphosphine tetrafluoroboric acid | 0.077 mmol, 22 mg | F[B-](F)(F)F.[H+].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
reactant | methyldicyclohexylamine | 0.581 mmol, 0.123 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
solvent | N-methyl-2-pyrrolidone | 0.97 mL | CN1C(CCC1)=O | C5H9NO
catalyst | palladium | 0.077 mmol, 45 mg | [Pd] | Pd
product | (E)-1-(3,5-dimethyl-4-(2-((4-oxo-2-(3-(trifluoromethyl)phenyl)-1,3,8-triazaspiro[4.5]deca-1-en-8-yl)sulfonyl)vinyl)phenyl)-5,5-dimethylimidazolidine-2,4-dione | 197 mg, 82% | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC=C2)C(F)(F)F)=O)CC1)C)N1C(NC(C1(C)C)=O)=O | C29H30F3N5O5S
